US09029545B2
4-Chloro-3-[3-(methyloxy)phenyl]thieno[2,3-b]pyridine
A mixture of 3-[3-(methyloxy)phenyl]thieno[2,3-b]pyridin-4(7H)-one (Description 42) (465 mg, 1.807 mmol) and phosphorus oxychloride (5 mL, 53.6 mmol) was heated at 110° C. for 1 h. After cooling to RT, the mixture was poured onto ice, stirred for 30 min and then extracted with DCM (10 mL×3). The organic layers were combined, washed with saturated NaHCO3 solution (100 mL), brine (100 mL), filtered through phase separator and evaporated in vacuo. The residue was purified by chromatography on silica, eluting with a gradient of 0-40% ethyl acetate in cyclohexane, to give the title compound (424 mg). LCMS (A) m/z: 278 [M+1]+, Rt 1.33 min (acidic).

reactant | 3-[3-(methyloxy)phenyl]thieno[2,3-b]pyridin-4(7H)-one | 1.807 mmol, 465 mg | COC=1C=C(C=CC1)C1=CSC=2NC=CC(C21)=O | C14H11NO2S
reactant | phosphorus oxychloride | 53.6 mmol, 5 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 4-Chloro-3-[3-(methyloxy)phenyl]thieno[2,3-b]pyridine | 424 mg | ClC1=C2C(=NC=C1)SC=C2C2=CC(=CC=C2)OC | C14H10ClNOS
